US05374625
In an atmosphere of argon gas, an ethereal solution (10 ml) of (4S,5S)-4,5-bis(methoxycarbonyl)-1-cyclohexene (1.86 g, 9.4 mmoles) was slowly added at 0° C. to a suspension (100 ml) of lithium aluminum hydride (713 mg, 18.8 mmoles) in ether, and the resulting mixture was stirred at 0° C. for 2 hours. After adding a saturated aqueous solution of sodium sulfate to the reaction mixture and decomposing the excessive reductant, anhydrous sodium sulfate was added and the whole mixture was stirred for a while. After filtering off the inorganic matter and washing the mixture with hot isopropyl alcohol, the filtrate and the washings were united, and the solvent was distilled off therefrom under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=2:1, v/v) and then recrystallized from ethyl acetate-hexane mixture to obtain (4S,5S)4,5-bis(hydroxymethyl)-1-cyclohexene (1.09 g, Yield 82%).

reactant | (4S,5S)-4,5-bis(methoxycarbonyl)-1-cyclohexene | 9.4 mmoles, 10 ml, 1.86 g | COC(=O)[C@H]1CC=CC[C@@H]1C(=O)OC | C10H14O4
reactant | lithium aluminum hydride | 18.8 mmoles, 100 ml, 713 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
product | (4S,5S)4,5-bis(hydroxymethyl)-1-cyclohexene | 1.09 g, Yield 82% | OC[C@H]1CC=CC[C@@H]1CO | C8H14O2
